Laboratório 3
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

Vin 1 0 sin(0 23 50 0 0)

D1 1 2 Default
D2 0 2 Default
D3 3 1 Default
D4 3 0 Default

Ce 2 3 354u

Re 2 3 70k

Rv 2 4 6.08k

D5 4 5 Default
D6 5 6 Default
D7 6 7 Default
D8 7 8 Default
D9 8 9 Default
D10 9 10 Default
D11 10 11 Default
D12 11 12 Default
D13 12 13 Default
D14 13 14 Default
D15 14 15 Default
D16 15 16 Default
D17 16 17 Default
D18 17 18 Default
D19 18 19 Default
D20 19 20 Default
D21 20 21 Default
D22 21 3 Default


.model Default D
.control

op

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


echo "********************************************"
echo  "Transient Analysis"
echo "********************************************"

tran 0.0005 0.14 0.04


echo  "op_TAB"
print {maximum(v(4)-v(3))-minimum(v(4)-v(3))}
print mean(v(4)-v(3))
echo  "op_END"


hardcopy spice1.ps {v(2)-v(3)}
echo spice1_FIG

hardcopy spice2.ps {v(4)-v(3)}
echo spice2_FIG

hardcopy spice3.ps {v(4)-v(3)-12}
echo spice3_FIG

quit
.endc

.end

