Laboratório 2
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 1 0 0
* capacitor
Vd 6 8 8.677386

*resistors
Rr1 1 2 1.03835624717k
Rr2 3 2 2.03980117275k
Rr3 2 5 3.02589288375k
Rr4 5 0 4.09496586064k
Rr5 5 6 3.11837790188k
Rr6 0 7 2.06517135248k
Rr7 9 8 1.01138577854k

*dummy voltage source
Vdu 7 9 0

*dependent voltage source
Hvc 5 8 Vdu 8.24825537187k

*dependent current source
Gib 6 3 (2,5) 7.20092310025m

.control
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 10e-3

hardcopy trans.ps v(coll) v(base)
echo trans_FIG

quit
.endc

.end

